US04518597
8-[4-(4-Cyclohexyl-phenylsulfinyl)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 2 from 8-[4-(4-cyclohexyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one and hydrogen peroxide.

reactant | 8-[4-(4-cyclohexyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | C1(CCCCC1)C1=CC=C(C=C1)SCCCCOC1=CC=CC=2C(OC(NC21)=O)(C)C | C26H33NO3S
reactant | hydrogen peroxide | OO | H2O2
product | 8-[4-(4-Cyclohexyl-phenylsulfinyl)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | C1(CCCCC1)C1=CC=C(C=C1)S(=O)CCCCOC1=CC=CC=2C(OC(NC21)=O)(C)C | C26H33NO4S
